Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hepatocellular carcinoma and HCV related cirrhosis, now here for 
liver transplant.

 
Major Surgical or Invasive Procedure:
___: Orthotopic liver transplant
 
History of Present Illness:
The patient is a ___- old male who has HCV related cirrhosis 
complicated by portal hypertension and the development of 
hepatocellular carcinoma,
status post chemoembolization. He has a lab MELD score of 11 and 
an exception MELD score of 25. He was last seen in clinic about 
2 months ago. Has been feeling well, no GI symptoms, no 
encephalopathy.
 
Past Medical History:
HCV with cirrhosis (failed interferon therapy)
Hepatocellular Carcinoma
s/p chemoembolization
 
Social History:
___
Family History:
Mother with gastric cancer
father deceased; unknown cause
 
Physical Exam:
VS: 97.9, 90, 153/88, 20, 100% RA
Gen: NAD
Sclera nonicteric
Lungs: Clear to auscultation
Card: RRR
Abd: Soft, non-tender, non-distended, + BS
Extr: No edema or cyanosis
 
Pertinent Results:
On Admission: ___
WBC-3.5* RBC-4.54* Hgb-14.3 Hct-43.4 MCV-96 MCH-31.6 MCHC-33.0 
RDW-15.2 Plt Ct-59*
___ PTT-33.9 ___
Glucose-85 UreaN-12 Creat-0.9 Na-141 K-4.1 Cl-109* HCO3-21* 
AnGap-15
ALT-85* AST-102* AlkPhos-211* TotBili-2.0*
Albumin-3.2* Calcium-8.7 Phos-2.3* Mg-1.6
On Discharge: ___ 
WBC-4.0 RBC-3.50* Hgb-11.8* Hct-32.5* MCV-93 MCH-33.5* 
MCHC-36.2* RDW-15.8* Plt Ct-62*
Glucose-81 UreaN-22* Creat-1.1 Na-141 K-4.0 Cl-108 HCO3-27 
AnGap-10
ALT-157* AST-68* AlkPhos-146* TotBili-0.8
tacroFK-13.___ y/o male admitted for orthotopic liver transplant. He went to 
the OR with Dr ___. In summary this was an Orthotopic 
deceased donor liver transplant (piggyback) portal vein to 
portal vein anastomosis, common bile duct to common bile duct 
anastomosis (no T tube), branch patch (recipient) to celiac axis 
patch
(donor). Donor replaced left hepatic artery from the left 
gastric.
He received standard induction immunosuppression to include 
solumedrol 500 mg intra-op with standard taper.
In the post op period, the patient progressed rapidly. He was 
ambulating, tolerating diet and learning his medications.
Both drains were removed prior to discharge.
He is to be discharged with daily fingersticks. Dr ___ to 
determine need for insulin based on home readings which were 
rarely above 160 while hospitalized.
He was having some diarrhea prior to discharge, a C diff was 
sent which was returned as a POSITIVE result. Transplant 
coordinator was notified.

 
Medications on Admission:
clotrimazole 10, xalatan 1 gtt each eye qHS
 
Discharge Medications:
1. Fluconazole 200 mg Tablet Sig: Two (2) Tablet PO Q24H (every 
24 hours).  
2. Prednisone 5 mg Tablet Sig: Four (4) Tablet PO DAILY (Daily): 
Taper per transplant clinic guideline.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed: No more than 2 grams daily (6 tablets).  
7. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
8. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
9. Valganciclovir 450 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. Mycophenolate Mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).  
11. One Touch Ultra 2     Kit Sig: One (1) kit
 Miscellaneous once a day.
Disp:*1 kit* Refills:*0*
12. One Touch II Test     Strip Sig: One (1) strip In ___ 
twice a day.
Disp:*2 bottles* Refills:*2*
13. Lancets     Misc Sig: One (1)  Miscellaneous twice a day: 
For fingerstick blood sugars.
Disp:*2 bottles* Refills:*2*
14. Tacrolimus 1 mg Capsule Sig: Three (3) Capsule PO Q12H 
(every 12 hours) for 2 weeks.
Disp:*100 Capsule(s)* Refills:*0*
15. Tacrolimus 5 mg Capsule Sig: One (1) Capsule PO twice a day 
for 2 weeks.
Disp:*28 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
HCV cirrhosis now s/p orthotopic liver transplant

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, inability to take or 
keep down medications.
Monitor the incision for redness, drainage or bleeding.
No heavy lifting
Do not drive if taking narcotic pain medications
Have labwork done every ___ and ___ per transplant 
clinic recommendations. Have labs faxed to ___
Check finger stick blood sugar before eating in the morning and 
late in the afternoon. Record the results and bring with you to 
clinic visits. For now you will not be on insulin
 
Followup Instructions:
___